US07842685B2
To a slurry of azetidine-3-carboxylic acid (20 g, 198 mmol) in 500 mL anhyd. MeOH under nitrogen at 0° C. was added slowly dropwise thionyl chloride (36 mL, 495 mmol) over 4 h. The resulting clear, light yellow solution was sealed and placed in a 0° C. freezer overnight. In the morning the reaction mixture was concentrated in vacuo, and the resulting oil was treated with 100 mL anhydrous benzene and concentrated in vacuo to give a solid. This was repeated anhydrous benzene. The resulting light yellow solid was dried in vacuo to give methyl azetidine-3-carboxylate hydrochloride. 1H NMR (400 MHz, MeOH-d4) δ ppm 4.21-4.30 (m, 4H), 3.78 (s, 3H), 3.71-3.78 (m, 1H).

reactant | azetidine-3-carboxylic acid | 198 mmol, 20 g | N1CC(C1)C(=O)O | C4H7NO2
reactant | MeOH | CO | CH4O
reactant | thionyl chloride | 495 mmol, 36 mL | S(=O)(Cl)Cl | Cl2OS
solvent | benzene | C1=CC=CC=C1 | C6H6
product | methyl azetidine-3-carboxylate hydrochloride | Cl.N1CC(C1)C(=O)OC | InChI=1S/C5H9NO2.ClH/c1-8-5(7)4-2-6-3-4;/h4,6H,2-3H2,1H3;1H
